*****************************************************************
* NXP NX2301P
*
* Polarity P-Channel
* Ratings 20V/1.00E-01OHMS/1A
*
* Date Created Tue Aug 17 22:45:47 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT NX2301P DRAIN GATE SOURCE

LD DRAIN 5 4e-10
RLD2 DRAIN 5 1.0053088
RLD1 5 4 0.0023
LG GATE 1 8.81711084834576e-10
RLG GATE 1 2.21597978160436
LS SOURCE 8 1.28299790790991e-09
RLS2 SOURCE 8 3.22452271800856
RLS1 8 7 0.0548513610286835

RDS 7 4 20000000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.0133764054008254 TC=0.0456224655770714,-9.35082911426198e-05
RBD 9 4 0.0900237400645535 TC=0.0456224655770714,-9.35082911426198e-05
DBD 9 7 DBD

M1 3 2 6 6 MINT

RGS 2 6 8000000000
CGS 2 6 2.55e-10
RG 1 2 19.9470486389713

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    2 3 VALUE { V(13, 0)*I(V11) }
E11    12   0  2 3  1
E12    13   0  TABLE {V(12)}
+ -6	286
+ -5	287
+ -4	287
+ -3	287
+ -2	289
+ -1	403
+ -0.5	441
+ -0.2	380
+ -0.1	372
+ 0	346.5
+ 0.1	327
+ 0.2	309
+ 0.5	244
+ 1	204
+ 2	168
+ 5	126
+ 10	98
+ 20	74



.MODEL MINT PMOS(Vto=-0.862171201341315 Kp=7.8359e+00 Nfs=670000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8  Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0  
+ U0=600 Vmax=10000)

.MODEL DBD D(Bv=22.40 Ibv=1.00E-06 Rs=1E-6 Is=5.52371414242712e-11
+ N=1 M=0.52 VJ=0.64 Fc=0.5 Cjo=7e-11 Tt=1.85e-08)

.ENDS




